US05093335
(2) Preparation of 2-amino-3-tert-butylamino-5,6-dicyanopyrazine
2.0 g (0.008 mol) of 2-chloro-3-tert-butylamino-5,6-dicyanopyrazine was dissolved in 100 ml of dry N,N-dimethylformamide, and ammonia gas was blown into it under stirring at room temperature. Two hours later, the reaction solution was poured into 1 liter of water and neutralized with hydrochloric acid. The precipitated solid was collected by filtration and recrystallized from isobutyl alcohol to obtain 1.2 g of slightly yellow crystals (yield: 69.4%, melting point: at least 250° C.).

reactant | 2-chloro-3-tert-butylamino-5,6-dicyanopyrazine | 0.008 mol, 2.0 g | ClC1=NC(=C(N=C1NC(C)(C)C)C#N)C#N | C10H10ClN5
reactant | ammonia | N | H3N
reactant | water | 1 liter | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-amino-3-tert-butylamino-5,6-dicyanopyrazine | yield: 69.4% | NC1=NC(=C(N=C1NC(C)(C)C)C#N)C#N | C10H12N6
